US07345180B2
1-Benzoyl-1H-indole-5-carboxylic acid
The benzyl 1-benzoyl-1H-indole-5-carboxylate (100 mg) obtained above was dissolved in ethanol, and 5% palladium on carbon (20 mg) was added thereto and stirred overnight at room temperature in a hydrogen atmosphere. Insoluble matter was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (50 mg, Y.:66%) as white crystals.

reactant | benzyl 1-benzoyl-1H-indole-5-carboxylate | 100 mg | C(C1=CC=CC=C1)(=O)N1C=CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1 | C23H17NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | 1-Benzoyl-1H-indole-5-carboxylic acid | 50 mg, 66% | C(C1=CC=CC=C1)(=O)N1C=CC2=CC(=CC=C12)C(=O)O | C16H11NO3
